US09388189B2
Benzyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate
In a three-neck reactor 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (1 g, 3.58 mmol) was dissolved in 36 mL tetrahydrofuran. The mixture was cooled at −78° C. and butyllithium solution (2.5 M in hexane, 3.20 mL, 8 mmol) dissolved in 10 mL was added dropwise over 15 min. The reaction was stirred at −78° C. for 20 min. Then benzyl carbonochloridate (570 μl, 3.99 mmol) was added dropwise. The reaction was stirred overnight. Water was added and the mixture evaporated. The crude was partitioned between ethyl acetate and water, brine, dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was purified using SP1® Purification System (0% to 20%, hexane-ethyl acetate) to give 490 mg (48% yield) of the title compound. Purity 100%.

reactant | 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 3.58 mmol, 1 g | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
reactant | butyllithium | 8 mmol, 2.5 M, 3.20 mL | C(CCC)[Li]
reactant | benzyl carbonochloridate | 3.99 mmol, 570 μl | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
product | Benzyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 490 mg, 48% yield | ClC=1C2=C(N=CN1)NC=C2C(=O)OCC2=CC=CC=C2 | C14H10ClN3O2
